data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_381820_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:6]/[O:5][H:8])(/[C:4](=[N:7]\[H:11])[H:14])([H:12])[H:13]>>[C:1](=[C:2]([N:3]([H:9])[H:10])[N:6](/[C:4](=[N:7]\[H:11])[H:14])[O:5][H:8])([H:12])[H:13],60.65916999997839
MR_212401_1,[C:1]1([C:3](=[O:7])[H:9])([H:8])[C:2](=[O:6])[C:4]([H:10])=[C:5]1[H:11]>>[C:1]1([H:8])=[C:5]([H:11])[C:4]([C:3](=[O:7])[H:9])([H:10])[C:2]1=[O:6],72.02256750000231
MR_120326_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:5]([C:6]([C:4]([H:17])([H:18])[H:19])=[O:9])=[O:8])[O:7][H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:5]([O:7][H:10])=[O:8])[C:6]([C:4]([H:17])([H:18])[H:19])=[O:9],58.69572249997759
MR_297492_1,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:7]([C:4]([H:20])([H:21])[H:22])=[C:6](/[C:3]([H:17])([H:18])[H:19])[N:8]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:7]([C:4]([H:20])([H:21])[H:22])[C@@:6]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[N:8]([H:10])[H:11])([H:12])[H:13],65.96217250000123
MR_338698_1,[C:1]12([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[C:2]([H:10])=[N:8][C:7]1([H:15])[C:6](=[O:9])[C:4]2([H:13])[H:14]>>[C:1]12([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[C:2]([H:10])([C:6](=[O:9])[C:4]1([H:13])[H:14])[N:8]=[C:7]2[H:15],54.43123250000795
MR_199058_1,[C:1]1([O:7][H:8])([H:9])[C:2]([N:3]([H:10])[H:11])([C:4](=[C:6]([H:15])[H:16])[H:12])[C:5]1([H:13])[H:14]>>[C:1]([C:2]([C:4](=[C:6]([H:15])[H:16])[H:12])=[C:5]([H:13])[H:14])([N:3]([H:10])[H:11])([O:7][H:8])[H:9],65.38989250001933
MR_438183_2,[C:1]1([H:12])([H:13])[C:6]2([C:2]([H:14])([H:15])[H:16])[C:4]3([O:8][H:10])[C:5]2([O:9][H:11])[C:7]13[C:3]([H:17])([H:18])[H:19]>>[C:1]1([H:12])([H:13])[C:6]([C:2]([H:14])([H:15])[H:16])=[C:4]([O:8][H:10])[C:5]([O:9][H:11])=[C:7]1[C:3]([H:17])([H:18])[H:19],25.260639999999626
MR_502561_1,[C:1]([N:2]([N:4]([H:8])[H:9])[H:7])([C:3]([N:5]([H:10])[H:11])=[O:6])([H:12])[H:13]>>[C:1]([N:2]([C:3]([N:5]([H:10])[H:11])=[O:6])[H:7])([N:4]([H:8])[H:9])([H:12])[H:13],59.69156499999585
MR_298789_1,[C:1](/[C:3]([O:6][C:2]([H:14])([H:15])[H:16])=[N:7]/[H:13])([N:4]([H:9])[H:11])([N:5]([H:10])[H:12])[H:8]>>[C:1](/[C:3](=[N:7]\[H:13])[H:8])([N:4]([H:9])[H:11])([N:5]([H:10])[H:12])[O:6][C:2]([H:14])([H:15])[H:16],50.9962975000127
MR_686531_0,[C:1](\[C:2]([N:5]([H:14])[H:15])([O:6][N:3]([H:10])[H:11])[O:8][H:13])(=[N:4]/[H:12])[O:7][H:9]>>[C:1]([C:2]([O:6][N:3]([H:10])[H:11])=[O:8])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:7][H:9],27.45626250002061
MR_246553_0,[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])=[C:5]([H:13])[H:14])([O:6][H:8])([H:11])[H:12]>>[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])([O:7][H:8])[H:12])=[C:5]([H:13])[H:14])(=[O:6])[H:11],71.14595000000406
MR_392574_0,[N:1]1([H:5])[N:2]([H:6])[C:3]([H:7])[N:4]1>>[N:1]([N:4]/[C:3](=[N:2]\[H:6])[H:7])[H:5],36.91080499999508
MR_335232_0,[C:1]([C:3]([N:2]([O:7][H:9])[H:10])=[O:8])(/[C:6](=[C:5](\[N:4]([H:11])[H:12])[H:15])[H:16])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3]([O:8])[C@@:6]1([C@:5]([N:2]([O:7][H:9])[H:10])([N:4]([H:11])[H:12])[H:15])[H:16],66.88647999998608
MR_54810_0,[C:1]1([H:10])([H:11])[C:3](=[C:6](\[N:5]([H:8])[H:9])[H:12])/[C:4]1=[C:7](\[C:2]([H:14])([H:15])[H:16])[H:13]>>[C:1]1([H:10])([H:11])[C:3]2=[C:4]1[C:7]([C:2]([H:14])([H:15])[H:16])([H:13])[C:6]2([N:5]([H:8])[H:9])[H:12],72.52268499998806
MR_15990_1,[C@:1]([C:3]([H:19])([H:20])[H:21])([N:4]([C:2]([H:16])([H:17])[H:18])[H:9])(/[C:5]([N:6]([H:11])[H:12])=[C:8](/[N:7]([H:13])[H:14])[H:15])[H:10]>>[C:1](\[C:3]([H:19])([H:20])[H:21])(=[C:5](/[N:6]([H:11])[H:12])[C@@:8]([N:4]([C:2]([H:16])([H:17])[H:18])[H:9])([N:7]([H:13])[H:14])[H:15])[H:10],66.33051499999866
MR_420138_2,[C:1](/[C:5]([N:6]([H:13])[H:14])=[C:7](/[N:4]([C:2]([H:16])([H:17])[H:20])[C:3]([H:18])([H:19])[H:21])[H:15])([O:8][H:10])([O:9][H:11])[H:12]>>[C:1](/[C:7](=[C:5](/[N:4]([C:2]([H:16])([H:17])[H:20])[C:3]([H:18])([H:19])[H:21])[N:6]([H:13])[H:14])[H:15])([O:8][H:10])([O:9][H:11])[H:12],72.25285999999159
MR_373026_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:10])([H:17])[H:18])[C:5]([C:6](=[O:8])[H:9])=[O:7]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([H:10])([H:17])[H:18])=[C:5]([C:3]([H:14])([H:15])[H:16])[O:7][C:6](=[O:8])[H:9],62.2517649999881
MR_465717_1,[C:1]([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])([O:6][H:8])/[N:7]=[C:5](\[N:4]([H:13])[H:14])[H:15]>>[C:1](\[N:2]([H:9])[H:10])([O:6][H:8])=[N:7]\[C:5]([N:3]([H:11])[H:12])([N:4]([H:13])[H:14])[H:15],49.30832250002979
MR_601797_1,[C:1]([N:2](/[C:3]([N:4]([H:10])[H:11])=[N:7]/[O:6][H:9])[O:5][H:8])([H:12])([H:13])[H:14]>>[C:1]([N:7](/[C:3](=[N:2]/[O:5][H:8])[N:4]([H:10])[H:11])[O:6][H:9])([H:12])([H:13])[H:14],68.80600250002644
MR_114285_0,[C:1]([C:4]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]/[N:6]([H:10])[H:11])[H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:7](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:3]\[H:9])[N:6]([H:10])[H:11])=[O:8])([H:12])([H:13])[H:14],38.27561749999134
